data/oMe_Silver.jsonl
{"reaction_id": "NR-139_1-C1CCCCC1_2-C(C)(C)C_3-C#Cc1ccccc1_4-c1cscn1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cscn1)(C1CCCCC1)(C(C)(C)C)(C#Cc1ccccc1)"],"products_smiles": ["C(C1CCCCC1)(C(C)(C)C)(C#Cc1ccccc1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cscn1)(C1CCCCC1)(C(C)(C)C)(C#Cc1ccccc1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C1CCCCC1)(C(C)(C)C)(C#Cc1ccccc1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(C1CCCCC1)(C(C)(C)C)(C#Cc1ccccc1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
